US07829560B2
3-Fluoro-N-(4-{[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B372).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and N-methylpiperazine according to conditions described in general procedure C. Mp: 182-184° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.60 (s, 6 H), 2.13 (s, 2 H), 2.20 (s, 3 H), 2.49-2.54 (m, 2 H), 3.22 (s, 2 H), 3.30 (s, 4 H), 3.48 (s, 2 H), 6.22-6.24 (m, 1 H), 6.97 (d, J=12.8 Hz, 1 H), 7.15 (d, J=8.8 Hz, 1 H), 7.42 (d, J=8.0 Hz, 1 H), 7.48 (s, 1 H), 7.55-7.63 (m, 3 H), 7.84 (d, J=7.3 Hz, 1 H), 7.99 (d, J=8.4 Hz, 1 H), 8.26-8.28 (m, 1 H), 10.45 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-Fluoro-N-(4-{[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCN(CC2)C)C=C(C1)N1CCCCC1 | C31H33FN6O2
